US09216965B2
5-(((4-Bromo-3-fluorophenyl)amino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (61.14 g, 177.6 mmol) was added portion-wise to Dowtherm (270 mL) at 245° C. After the addition, stirred at 245° C. for 20 minutes. Cool to RT. Added hexanes (˜830 mL) and filtered the solid washing with additional hexanes and dried the solid to yield 6-bromo-7-fluoroquinolin-4(1H)-one/6-bromo-5-fluoroquinolin-4(1H)-one (38.02 g, 88.5%) as brown solid and as a mixture of regioisomers (46:54, by LCMS). MS: m/z: 242.0/244.0 [M+H]+. Used this mixture as is for the next step.

reactant | 5-(((4-Bromo-3-fluorophenyl)amino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 177.6 mmol, 61.14 g | BrC1=C(C=C(C=C1)NC=C1C(OC(OC1=O)(C)C)=O)F | C13H11BrFNO4
solvent | Dowtherm | 270 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 6-bromo-7-fluoroquinolin-4(1H)-one 6-bromo-5-fluoroquinolin-4(1H)-one | 38.02 g, 88.5% | BrC=1C=C2C(C=CNC2=CC1F)=O.BrC=1C(=C2C(C=CNC2=CC1)=O)F | 2C9H5BrFNO
